US05840751
6-[4-(1,1-Dimethylethyl)phenyl]-5,6-dihydro-4-hydroxy-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 5.0 mL of methyl acetoacetate, 2.0 g of NaH 60% dispersion in oil, 31.5 mL of 1.6M n-butyl lithium in hexane, 9.0 g of 4-(1,1-dimethylethyl)benzaldehyde and 100 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 164°-165° C.). 1 H NMR (CDCl3) δ 1.33 (s, 9 H), 2.94 (dd, 2 H), 3.59 (dd, 2 H), 5.69 (dd, 1 H), 7.31-7.47 (m, 4 H).

reactant | methyl acetoacetate | 5.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 2.0 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 31.5 mL | C(CCC)[Li]
reactant | 4-(1,1-dimethylethyl)benzaldehyde | 9.0 g | CC(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-[4-(1,1-Dimethylethyl)phenyl]-5,6-dihydro-4-hydroxy-2H-pyran-2-one | CC(C)(C)C1=CC=C(C=C1)C1CC(=CC(O1)=O)O | C15H18O3
